US04399134
A solution of 11.5 g of potassium nitrate in 30 ml of concentrated sulfuric acid was added to 21.0 g of 5-bromo-6-fluoroquinaldine in 117 ml of concentrated sulfuric acid dropwise at -5° C. After stirring at room temperature for 5 hours, the reaction mixture was poured into 2 l of ice water to precipitate solids which were then collected by filtration. The filtrate was rendered alkaline to form a small amount of solids, which together with the former solids were dissolved in dichloromethane. After the solution was dried over sodium sulfate the solvent was distilled off. Recrystallization of the residue from isopropanol gave 22.9 g of 5-bromo-6-fluoro-8-nitroquinaldine. m.p. 135°-137° C.

reactant | potassium nitrate | 11.5 g | [N+](=O)([O-])[O-].[K+]
reactant | 5-bromo-6-fluoroquinaldine | 21.0 g | BrC1=C2C=CC(=NC2=CC=C1F)C | C10H7BrFN
solvent | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 117 ml | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-bromo-6-fluoro-8-nitroquinaldine | 22.9 g | BrC1=C2C=CC(=NC2=C(C=C1F)[N+](=O)[O-])C | C10H6BrFN2O2
